US08309580B2
3-[(4-{1-[5-(4-chlorophenyl)-2-methyl-3-furyl]-3-methylbutoxy}benzoyl)(methyl)amino]propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-{1-[5-(4-chlorophenyl)-2-methyl-3-furyl]-3-methylbutoxy}benzoic acid (128 mg) as well as ethyl 3-(methylamino)propanoate (47 mg) to give the title compound (124 mg, 86%) as an amorphous compound.

reactant | 4-{1-[5-(4-chlorophenyl)-2-methyl-3-furyl]-3-methylbutoxy}benzoic acid | 128 mg | ClC1=CC=C(C=C1)C1=CC(=C(O1)C)C(CC(C)C)OC1=CC=C(C(=O)O)C=C1 | C23H23ClO4
reactant | ethyl 3-(methylamino)propanoate | 47 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-[(4-{1-[5-(4-chlorophenyl)-2-methyl-3-furyl]-3-methylbutoxy}benzoyl)(methyl)amino]propanoic acid | 124 mg, 86% | ClC1=CC=C(C=C1)C1=CC(=C(O1)C)C(CC(C)C)OC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1 | C27H30ClNO5
